US07105563B2
A solution of 5-amino-3-[1-(pyrrol-2-yl)ethylidene]indolin-2-one (360 mg, 1.5 mmol) in tetrahydrofuran (15 mL) was treated with ethyl isocyanatoacetate (195 mg, 1.5 mmol) at ambient temperature. After stirring overnight, methanol (5 mL) was added and the reaction was concentrated. Chromatography on SiO2 (7.2 g) using 1:2 hexane/ethyl acetate afforded 5-(N′-(ethoxycarbonylmethyl)ureido)-3-[1-(pyrrol-2-yl)ethylidene]indolin-2-one; 1H NMR (400 MHz, DMSO-d6) δ 1.32 (t, 3H), 2.82 (s, 3H), 3.96 (d, 2H), 4.22 (q, 2H), 6.44 (m, 2H), 6.88 (d, 1H), 7.16 (m, 1H), 7.28 (d, 1H), 7.40 (m, 1H), 7.96 (m, 1H), 8.76 (s, 1H), 11.02 (s, 1H) ppm; (200 mg).

reactant | 5-amino-3-[1-(pyrrol-2-yl)ethylidene]indolin-2-one | 1.5 mmol, 360 mg | NC=1C=C2C(C(NC2=CC1)=O)=C(C)C=1NC=CC1 | C14H13N3O
reactant | ethyl isocyanatoacetate | 1.5 mmol, 195 mg | N(=C=O)CC(=O)OCC | C5H7NO3
reactant | methanol | 5 mL | CO | CH4O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 5-(N′-(ethoxycarbonylmethyl)ureido)-3-[1-(pyrrol-2-yl)ethylidene]indolin-2-one | C(C)OC(=O)CNC(NC=1C=C2C(C(NC2=CC1)=O)=C(C)C=1NC=CC1)=O | C19H20N4O4
